US06492383B1
2-{4-[7-(1H-Indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-benzylamino}-ethanol
The title compound was prepared from 2-aminoethanol and 4-[7-(1H-indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-benzaldehyde by a procedure analogous to example 17. LC-MS: 415 (MH+); HPLC RT: 3.40 minutes.

reactant | 2-aminoethanol | NCCO | C2H7NO
reactant | 4-[7-(1H-indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-benzaldehyde | N1C=CC2=CC(=CC=C12)NC1=C2C(=NC=C1)C=C(S2)C2=CC=C(C=O)C=C2 | C22H15N3OS
product | 2-{4-[7-(1H-Indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-benzylamino}-ethanol | N1C=CC2=CC(=CC=C12)NC1=C2C(=NC=C1)C=C(S2)C2=CC=C(CNCCO)C=C2 | C24H22N4OS
